* Generic behavioral analog macro-models for preliminary CircuitCI design simulation.
* These models are intentionally simple and are not vendor- or bench-calibrated.

.subckt CIRCUITCI_IDEAL_OPAMP INP INN VCC VEE OUT
* Finite-gain voltage-controlled source for preliminary closed-loop topology checks.
EGAIN NRAW VEE INP INN 100000
ROUT NRAW OUT 10
RBIASP INP VEE 1G
RBIASN INN VEE 1G
COUT OUT VEE 10p
.ends CIRCUITCI_IDEAL_OPAMP

.subckt CIRCUITCI_IDEAL_COMPARATOR INP INN VCC VEE OUT
* Logistic transition avoids the convergence problems of a hard digital step.
BOUT OUT VEE V={v(VCC,VEE)/(1+exp(-1000*(v(INP)-v(INN))))}
ROUT OUT VEE 1G
.ends CIRCUITCI_IDEAL_COMPARATOR

.subckt CIRCUITCI_IDEAL_LDO_3V3 VIN EN GND VOUT
* Idealized enabled 3.3 V source with smooth enable behavior.
BOUT VOUT GND V={3.3/(1+exp(-20*(v(EN,GND)-1)))}
ROUT VOUT GND 1G
.ends CIRCUITCI_IDEAL_LDO_3V3

.subckt CIRCUITCI_TPS54331_5V_BUCK VIN EN GND VSENSE PARAMS: VOUT_V=5
* Reduced TPS54331 5 V buck-regulator observation behavior.
* The output is an ideal preliminary rail source gated by VIN input range and
* EN. Switching action, PH/BOOT behavior, compensation, ripple, current limit,
* thermal behavior, and Eco-mode are intentionally not modeled.
BOUT VSENSE GND V={VOUT_V/(1+exp(-4*(v(VIN,GND)-3.5)))/(1+exp(-20*(v(EN,GND)-1)))}
ROUT VSENSE GND 1G
RBIAS EN GND 1G
.ends CIRCUITCI_TPS54331_5V_BUCK

.subckt CIRCUITCI_TPS62162_3V3_BUCK VIN EN GND VOS PARAMS: VOUT_V=3.3
* Reduced TPS62162 3.3 V buck-regulator observation behavior.
* The output is an ideal preliminary rail source gated by the datasheet VIN
* operating floor and EN. SW/PG behavior, DCS-Control dynamics, ripple, current
* limit, thermal behavior, layout, EMI, and loop stability are intentionally
* not modeled.
BOUT VOS GND V={VOUT_V/(1+exp(-4*(v(VIN,GND)-3.0)))/(1+exp(-20*(v(EN,GND)-1)))}
ROUT VOS GND 1G
RBIAS EN GND 1G
.ends CIRCUITCI_TPS62162_3V3_BUCK

.subckt CIRCUITCI_TPS63802_3V3_BUCK_BOOST VIN EN GND VOUT PARAMS: VOUT_V=3.3
* Reduced TPS63802 3.3 V buck-boost observation behavior.
* The output is an ideal preliminary rail source gated by the datasheet VIN
* startup floor and EN. L1/L2 switching, FB dynamics, MODE/PG behavior,
* inductor current, thermal behavior, layout, EMI, and loop stability are
* intentionally not modeled.
BOUT VOUT GND V={VOUT_V/(1+exp(-4*(v(VIN,GND)-1.8)))/(1+exp(-20*(v(EN,GND)-1)))}
ROUT VOUT GND 1G
RBIAS EN GND 1G
.ends CIRCUITCI_TPS63802_3V3_BUCK_BOOST

.subckt CIRCUITCI_TPS61023_5V_BOOST VIN EN GND VOUT PARAMS: VOUT_V=5
* Reduced TPS61023 5 V boost-regulator observation behavior.
* The output is an ideal preliminary rail source gated by the datasheet startup
* input floor and EN. SW switching, FB-loop dynamics, inductor current, ripple,
* current limit, thermal behavior, layout, EMI, and loop stability are
* intentionally not modeled.
BOUT VOUT GND V={VOUT_V/(1+exp(-4*(v(VIN,GND)-1.8)))/(1+exp(-20*(v(EN,GND)-1)))}
ROUT VOUT GND 1G
RBIAS EN GND 1G
.ends CIRCUITCI_TPS61023_5V_BOOST

.subckt CIRCUITCI_TPS2121_POWER_MUX IN1 IN2 GND OUT ILIM PARAMS: SELECT_INPUT=1
* Reduced TPS2121 power-mux observation behavior.
* SELECT_INPUT near 1 selects IN1; near 2 selects IN2. OUT is an ideal
* preliminary selected-source rail. Priority comparators, switchover droop,
* reverse-current magnitude, ILIM-derived current limit, soft-start, thermal
* behavior, and status output are intentionally not modeled.
BOUT OUT GND V={((1-(1/(1+exp(-20*(SELECT_INPUT-1.5)))))*v(IN1,GND)+(1/(1+exp(-20*(SELECT_INPUT-1.5))))*v(IN2,GND))}
RILIMBIAS ILIM GND 1G
ROUT OUT GND 1G
.ends CIRCUITCI_TPS2121_POWER_MUX

.subckt CIRCUITCI_TPS22918_LOAD_SWITCH VIN VOUT GND ON
* Reduced TPS22918 enabled high-side switch behavior.
* ON controls a smooth VIN-to-VOUT conductance near the datasheet typical
* 52 mOhm on-resistance. CT slew, QOD discharge, reverse-current behavior,
* thermal behavior, and current limiting are intentionally not modeled.
BSW VIN VOUT I={v(VIN,VOUT)*(1e-9 + 19.23/(1+exp(-20*(v(ON,GND)-1))))}
RLEAK VOUT GND 1G
RBIAS ON GND 1G
.ends CIRCUITCI_TPS22918_LOAD_SWITCH

.subckt CIRCUITCI_MCP73831_4V2_CHARGER VDD VBAT VSS PROG
* Reduced MCP73831-2 constant-current/constant-voltage charger behavior.
* A 1 uA PROG bias makes the external RPROG voltage encode the datasheet
* IREG = 1000 V / RPROG relationship as ICHG = 0.001 / V(PROG,VSS).
* Thermal regulation, charge qualification, termination, STAT behavior, and
* battery chemistry are intentionally not modeled.
BPROG PROG VSS I=1u
BCHG VDD VBAT I={(0.001/sqrt(v(PROG,VSS)*v(PROG,VSS)+1e-12))/(1+exp(25*(v(VBAT,VSS)-4.2)))}
BCLAMP VBAT VSS I={5*(v(VBAT,VSS)-4.2+sqrt((v(VBAT,VSS)-4.2)*(v(VBAT,VSS)-4.2)+1e-8))}
RLEAK VBAT VSS 1G
.ends CIRCUITCI_MCP73831_4V2_CHARGER

.subckt CIRCUITCI_BQ24075_POWER_PATH_CHARGER IN BAT OUT VSS ISET
* Reduced BQ24075 power-path charger behavior.
* A 1 uA ISET bias makes the external RISET voltage encode the datasheet
* ICHG = 890 / RISET relationship as ICHG = 0.00089 / V(ISET,VSS).
* OUT is a smooth preliminary min(IN, 5.5 V) behavioral rail source. DPPM,
* supplement mode, input-current limiting, thermal behavior, and termination
* are intentionally not modeled.
BISET ISET VSS I=1u
BCHG IN BAT I={(0.00089/sqrt(v(ISET,VSS)*v(ISET,VSS)+1e-12))/(1+exp(25*(v(BAT,VSS)-4.2)))}
BOUT OUT VSS V={0.5*(v(IN,VSS)+5.5-sqrt((v(IN,VSS)-5.5)*(v(IN,VSS)-5.5)+1e-6))}
BCLAMP BAT VSS I={5*(v(BAT,VSS)-4.2+sqrt((v(BAT,VSS)-4.2)*(v(BAT,VSS)-4.2)+1e-8))}
RLEAK BAT VSS 1G
.ends CIRCUITCI_BQ24075_POWER_PATH_CHARGER

.subckt CIRCUITCI_BQ25798_NVDC_CHARGER VBUS SYS BAT GND PARAMS: ICHG_A=1 VSYS_V=12 VBAT_REG_V=16.8
* Reduced BQ25798 buck-boost/NVDC charger observation behavior.
* ICHG_A is a host-declared charge-current setting from Board IR component
* parameters. SYS is an ideal preliminary observation rail while VBUS is above
* the datasheet input floor. Buck-boost switching, DPM/MPPT, BATFET supplement
* mode, register sequencing, thermal behavior, and cell-safety behavior are
* intentionally not modeled.
BCHG VBUS BAT I={ICHG_A/(1+exp(8*(v(BAT,GND)-VBAT_REG_V)))}
BSYS SYS GND V={VSYS_V/(1+exp(-4*(v(VBUS,GND)-3.6)))}
BCLAMP BAT GND I={2*(v(BAT,GND)-VBAT_REG_V+sqrt((v(BAT,GND)-VBAT_REG_V)*(v(BAT,GND)-VBAT_REG_V)+1e-8))}
RLEAK BAT GND 1G
.ends CIRCUITCI_BQ25798_NVDC_CHARGER

.subckt CIRCUITCI_TLV803EA29_RESET_SUPERVISOR VDD GND RESET
* Reduced TLV803EA29 active-low open-drain threshold behavior.
* RESET is strongly pulled low while VDD is below the nominal 2.93 V threshold
* and otherwise relies on an external pull-up resistor in the circuit. The
* logistic conductance avoids hard switching discontinuities.
BRESET RESET GND I={v(RESET,GND)*(1e-9 + 1/(1+exp(80*(v(VDD,GND)-2.93))))}
RLEAK RESET GND 1G
.ends CIRCUITCI_TLV803EA29_RESET_SUPERVISOR
